US05015656
(c) Methyl 4-acetoxy-2,5-dihydro-5-methyl-3-thiophenecarboxylate
Methyl 4-keto-5-methyl-2,3,4,5-tetrahydrothiophene-3-carboxylate (90.83 g) and p-toluenesulphonic acid (1 g) were refluxed for 6 hours in isopropenyl acetate (214 ml) and then stood at room temperature for 22 hours.

reactant | Methyl 4-keto-5-methyl-2,3,4,5-tetrahydrothiophene-3-carboxylate | 90.83 g | O=C1C(CSC1C)C(=O)OC | C7H10O3S
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropenyl acetate | 214 ml | C(C)(=O)OC(=C)C | C5H8O2
product | Methyl 4-acetoxy-2,5-dihydro-5-methyl-3-thiophenecarboxylate | C(C)(=O)OC1=C(CSC1C)C(=O)OC | C9H12O4S
